US05597918
To a suspension of 5.7 g of aluminum chloride in 100 ml of methylene chloride was added 2.0 ml of acetyl chloride under ice-cooling and the mixture was stirred at room temperature for 10 minutes. 4.5 g of 2-(4-chlorophenyl)-4,4a,5,6-tetrahydrothieno-[2,3-h]cinnolin-3(2H)-one was added under ice-cooling, and the mixture was refluxed for 2 hours. After cooling, the mixture was poured into ice-cold water and extracted with chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate and the solvent was concentrated in vacuo. The resulting crystal was recrystallized from a mixed solvent of chloroform and ethanol to give 4.7 g of 8-acetyl-2-(4-chlorophenyl)-4,4a,5,6tetrahydrothieno-[2,3-h]cinnolin-3(2H)-one as a white crystal, melting at 155°-157° C.

reactant | aluminum chloride | 5.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 2.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2-(4-chlorophenyl)-4,4a,5,6-tetrahydrothieno-[2,3-h]cinnolin-3(2H)-one | 4.5 g | ClC1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)SC=C3 | C16H13ClN2OS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 8-acetyl-2-(4-chlorophenyl)-4,4a,5,6tetrahydrothieno-[2,3-h]cinnolin-3(2H)-one | 4.7 g | C(C)(=O)C1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)Cl)=O)S1 | C18H15ClN2O2S
